US04582913
Preparation of 4-Nitrophenyl 2-Chloroacetoacetate
A solution of 5-chloro-2,2,6-trimethyl-4H-1,3-dioxin-4-one (8.8 g, 50 mmol) and 4-nitrophenol (7.65 g, 55 mmol) in 5 ml of xylene under continuous nitrogen purge was immersed in an oil bath preheated to 110° C. The reaction was then heated to 135° C. and then stirred an additional 15 minutes. The pale brown reaction was cooled to 20° C. and the precipitated product washed with ether/hexanes to afford 10.9 g (84%) of the title compound as flaky, white crystals.

reactant | 5-chloro-2,2,6-trimethyl-4H-1,3-dioxin-4-one | 50 mmol, 8.8 g | ClC=1C(OC(OC1C)(C)C)=O | C7H9ClO3
reactant | 4-nitrophenol | 55 mmol, 7.65 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 4-Nitrophenyl 2-Chloroacetoacetate | 10.9 g, 84% | ClC(C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])C(=O)C | C10H8ClNO5
